US07595300B2
N-[(2R*,3S*)-5-fluoro-3-hydroxy-2-methylpentanoyl]-2-benzoxazolone
Titanium tetrachloride (15.8 mL, 144 mmol) was added over 5 minutes to a vigorously stirred solution of N-propionyl-2-benzoxazolone (25.0 g, 131 mmol) in anhydrous CH2Cl2 (250 mL) cooled on ice and maintained under inert atmosphere. After 10 minutes, the yellow slurry was treated with N-methylmorpholine (15.8 mL, 144 mmol) over 5 minutes, and stirring was continued for an additional 45 minutes. A 0.48 M solution of 3-fluoropropanal (310 mL, 150 mmol) was added to the dark red solution over 30 minutes, such that the internal temperature remained below 10° C. After addition was complete, the mixture was stirred for an additional 30 minutes on ice, then at warm to ambient temperature an additional 1 hour. The reaction was treated with 250 mL of 2 N HCl with vigorous mixing, and the phases were separated, discarding the aqueous phase. The organic phase was filtered through a pad of silica gel (10 g), which was subsequently washed with 100 mL of methyl tert-butyl ether (MTBE). The combined eluates were evaporated to dryness. The resulting solid mass was triturated with MTBE, allowed to stand for 1 hour, then collected by vacuum filtration, yielding 26 gm of crystalline product. 1H-NMR: δ 8.07-8.02 (m, 1H), 7.29-7.18 (m, 3H), 4.77-4.05 (m, 2H), 4.31 (m, 1H), 3.96 (dq, J=7, 3 Hz, 1H), 2.00-1.79 (m, 2H), 1.34 (d, J=7 Hz, 3H). 13C-NMR: δ 176.1, 151.1, 142.2, 127.7, 125.6, 125.0, 116.2, 110.0, 82.0, 80.4, 68.0, 43.8, 34.7, 34.5, 10.4.

reactant | N-propionyl-2-benzoxazolone | 131 mmol, 25.0 g | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | N-methylmorpholine | 144 mmol, 15.8 mL | CN1CCOCC1 | C5H11NO
reactant | 3-fluoropropanal | 150 mmol, 310 mL | FCCC=O | C3H5FO
reactant | HCl | 2 N, 250 mL | Cl | ClH
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | Titanium tetrachloride | 144 mmol, 15.8 mL | [Ti](Cl)(Cl)(Cl)Cl
product | N-[(2R*,3S*)-5-fluoro-3-hydroxy-2-methylpentanoyl]-2-benzoxazolone | 26 gm | FCC[C@@H]([C@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)O | C13H14FNO4
